US08383641B2
61.4 4-Isopropyl-N-{2-methyl-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridin-3-yl}-benzenesulfonamide
2-Methyl-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridin-3-amine (340 mg) was dissolved in pyridine (3.3 mL) and 4-isopropylbenzenesulfonyl chloride (358 mg) was slowly added under stirring. After 19 h stirring at room temperature, the reaction mixture was diluted with dichloromethane and 2 M aqueous NaOH was added. After stirring for 1 h at room temperature the phases were separated. The organic phase was dried (sodium sulfate), concentrated and the crude product purified by flash chromatography (silica, dichloromethane, 0.5 to 5% methanol gradient). Yield: 460 mg (78%, pale yellow oil).

reactant | 2-Methyl-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridin-3-amine | 340 mg | CC1=NC(=CC=C1N)OC1CN(CC1)C(CC)=O | C13H19N3O2
reactant | 4-isopropylbenzenesulfonyl chloride | 358 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
solvent | pyridine | 3.3 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | NaOH | 2 M | [OH-].[Na+]
product | 4-Isopropyl-N-{2-methyl-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridin-3-yl}-benzenesulfonamide | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC(=CC1)OC1CN(CC1)C(CC)=O)C | C22H29N3O4S
